US04118561
7-(4-Cyanophenyl)-7H-pyrrolo[3,2-f]-quinazoline-1,3-diamine
A solution of 15.94 g. 7H-pyrrolo[3,2-f]quinazoline-1,3-diamine in 800 ml. dry dimethylformamide is stirred, under nitrogen, with 4.61 g. ca. 50% sodium hydride-mineral oil dispersion for 1.5 hours. Addition of 10.66 g. 4-fluorobenzonitrile is followed by heating of the reaction mixture at 95° for 6 hours. Glacial acetic acid (40 ml.) is added and the solvent is removed in vacuo. The residue is stirred thoroughly with excess aqueous potassium carbonate solution, collected, washed with water and dried. Two recrystallizations of the crude product from dimethylformamide, followed by washing with a small amount of dimethylformamide, with methanol and thorough drying, yield the title compound, m.p. 344° (dec.), NMR (dDMSO): δ 7.17 (doublet, J=9Hz, 5 or 6H), 7.42 (doublet, J=3Hz, 9H), 7.76-7.95 (four protons multiplet, 5 or 6H, 8H and two protons meta to the cyano group), 8.09 (two proton doublet, J= 8Hz, two protons ortho to the cyano group) p.p.m.

reactant | 7H-pyrrolo[3,2-f]quinazoline-1,3-diamine | C=1(N=C(N=C2C=CC3=C(C12)C=CN3)N)N | C10H9N5
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium hydride | [H-].[Na+]
reactant | 4-fluorobenzonitrile | FC1=CC=C(C#N)C=C1 | C7H4FN
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 7-(4-Cyanophenyl)-7H-pyrrolo[3,2-f]-quinazoline-1,3-diamine | C(#N)C1=CC=C(C=C1)N1C=CC=2C3=C(N=C(N=C3C=CC21)N)N | C17H12N6
